US07704995B2
3-Amino-6-(3-cyanophenyl)-N-methylpyrazine-2-carboxamide (155 mg, 0.61 mmol) was suspended in ethanol (2 mL) followed by addition of 50% aqueous hydroxylamine (250 uL, 4.1 mmol) and the mixture was heated to reflux for 30 minutes then allowed to cool to room temperature. The suspension was diluted with water (2 mL) and the solid product collected by filtration and dried in vacuo to give crude 3-amino-N-methyl-6-{3-[(hydroxyamino)(imino)methyl]phenyl}pyrazine-2-carboxamide (125 mg, 72% yield) as a yellow solid which was carried forward without further purification: MS (EI) for C13H15N6O2: 287 (MH+).

reactant | 3-Amino-6-(3-cyanophenyl)-N-methylpyrazine-2-carboxamide | 0.61 mmol, 155 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C#N)C(=O)NC | C13H11N5O
reactant | hydroxylamine | 4.1 mmol, 250 uL | NO | H3NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 3-amino-N-methyl-6-{3-[(hydroxyamino)(imino)methyl]phenyl}pyrazine-2-carboxamide | 125 mg, 72% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=N)NO)C(=O)NC | C13H14N6O2
